US07727985B2
Example 63: [(S)-5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid
To a suspension of (S)-6,6-Dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide (2.6 g, 6.0 mmoles) in 60 ml of methanol was added 1.7 ml of triethylamine (2.0 eq.), sodium cyanoborohydride (575 mg, 9.1 mmoles) and glyoxylic acid (780 mg, 8.5 mmoles). The reaction mixture was stirred at ambient temperature for 1.5 hrs. Water was added (5 ml) and the mixture was concentrated to a thick yellow slurry. More water was then added (30 ml) and the resulting slurry was stirred at ambient temperature for 10 min. and was filtered. The collected yellow solid was washed with water and dried under high vacuum to give 1.80 g (71%) of the desired product.

reactant | (S)-6,6-Dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide | 6.0 mmoles, 2.6 g | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@H]1NCC(OC1)(C)C | C18H19ClN4O2
reactant | triethylamine | 1.7 ml, 2.0 eq. | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 9.1 mmoles, 575 mg | C(#N)[BH3-].[Na+]
reactant | glyoxylic acid | 8.5 mmoles, 780 mg | C(C=O)(=O)O | C2H2O3
solvent | methanol | 60 ml | CO | CH4O
solvent | Water | O | H2O
product | [(S)-5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid | 1.80 g, 71% | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@@H]1COC(CN1CC(=O)O)(C)C | C20H21ClN4O4
